US08222274B2
A 266 mg portion of 2-methyl-5-(trifluoromethyl)-1H-pyrrole-3-carbonitrile was dissolved in 10 ml of toluene, and 0.382 ml of 2-(4-fluorophenyl)ethanol and 352 mg of cyanomethylenetrimethylphospholan were added, followed by stirring at 100° C. for 1.5 hours. The reaction liquid was concentrated under a reduced pressure, and the resulting residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:9-1:4) to obtain 451 mg of 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(trifluoromethyl)-1H-pyrrole-3-carbonitrile as a white solid.

reactant | 2-methyl-5-(trifluoromethyl)-1H-pyrrole-3-carbonitrile | CC=1NC(=CC1C#N)C(F)(F)F | C7H5F3N2
reactant | 2-(4-fluorophenyl)ethanol | 0.382 ml | FC1=CC=C(C=C1)CCO | C8H9FO
reactant | cyanomethylenetrimethylphospholan | 352 mg | C(#N)C=C1C(P(CC1)C)(C)C | C9H14NP
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-(trifluoromethyl)-1H-pyrrole-3-carbonitrile | 451 mg | FC1=CC=C(C=C1)CCN1C(=C(C=C1C(F)(F)F)C#N)C | C15H12F4N2
